US07655669B2
3-(4-Methyl-1-piperazinyl)-5-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 3-fluoro-5-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and 1-methylpiperazine (Fluka, Buchs, Switzerland).

reactant | 3-fluoro-5-(trifluoromethyl)-benzonitrile | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-(4-Methyl-1-piperazinyl)-5-(trifluoromethyl)-benzonitrile | CN1CCN(CC1)C=1C=C(C#N)C=C(C1)C(F)(F)F | C13H14F3N3
